US05523411
1,2-Epoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indole (1):
In a 100-mL round-bottom flask, a total of 626 mg (4.31 mmol) of 2-formylindole and 259 mg (8.63 mmol) of NaH (80% dispersion in mineral oil) was stirred in 50 mL of dry THF under N2 at 0° C. ice bath). A total of 935 mg (4.31 mmol) of dimethylvinylsulfonium iodide was added after 20 minutes and the reaction mixture was stirred overnight (about 15 hours). The mixture was then evaporated under reduced pressure and the residue was washed with pentane or hexane. The filtrate was evaporated under reduced pressure. The resulting solid was analyzed by GC-MS and had a purity of 99%. Yield: 665 mg (72%). 1H NMR (CDCl3): δ4.09 (dd, 1H, J1 =12), 4.33 (d, 1H, J=12), 4.40 (d, 1H, J=2.5), 4.50 (t, 1H, J=2.5), 6.59 (s, 1H), 0.0-7.3 (m, 3H), 7.60 (d, 1H, J=7.5), 13C NMR (CDCl3 : δ45.94, 51.35, 60.83, 97.62, 109.23, 119.64, 121.68, 122.34, 131.44, 133.90, 139.12, MS (EI): m/z 171 (M+).

reactant | 2-formylindole | 4.31 mmol, 626 mg | C(=O)C=1NC2=CC=CC=C2C1 | C9H7NO
reactant | NaH | 8.63 mmol, 259 mg | [H-].[Na+]
reactant | dimethylvinylsulfonium iodide | 4.31 mmol, 935 mg | [I-].CC(=C[SH2+])C
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1,2-Epoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indole | O1C2C1CN1C2=CC=2C=CC=CC12 | C11H9NO
